US04032544
A mixture of 4-ethyl-3-methylphenol (31.51 g) and anhydrous potassium carbonate (91.25 g) was heated at 175° for 4 hours under a carbon dioxide pressure of 1,300 p.s.i. The cooled reaction products were dissolved in water (2 l). Acidification with hydrochloric acid, filtration and recrystallisation of the solid from ethanol-water gave 5-ethyl-4-methylsalicylic acid, m.p. 152.5°-154° C. (Found; C, 66.55; H, 6.71; C10H12O3 requires; C, 66.65; H, 6.71.)

reactant | 4-ethyl-3-methylphenol | 31.51 g | C(C)C1=C(C=C(C=C1)O)C | C9H12O
reactant | potassium carbonate | 91.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2 l | O | H2O
product | 5-ethyl-4-methylsalicylic acid | C(C)C1=C(C=C(C(C(=O)O)=C1)O)C | C10H12O3
